US05112834
41. (+)-(1S,2S)-3-formyl-2-methyl-8-(2-hydroxy-2,3-dihydro-1-indenyloxy)-imidazo[1,2-a]pyridine
3.30 g of 3-formyl-8-hydroxy-2-methyl-imidazo[1,2-a]pyridine and 1.40 g (-)-1R,2S-indenoxide are reacted, analogously to the method described in Example 21, with 1.90 g of triethylamine in 425 ml of aqueous methanol (350 ml methanol+75 g water) at 50° C. After 8 hours the solution is evaporated and the residue dissolved in 150 ml water. 4 g of sodium carbonate is added and extracted with 4×100 ml ethyl acetate. The organic phases are washed with 2×200 ml sodium carbonate solution and 4×200 ml water, dried over magnesium sulfate and evaporated. The solid residue is mixed in 100 ml cyclohexane filtered and dried. 1.51 g of the title compound m.p. 187°- 192° C. is isolated [α]D22 =+112° (c=0.5, chloroform).

reactant | 3-formyl-8-hydroxy-2-methyl-imidazo[1,2-a]pyridine | 3.30 g | C(=O)C1=C(N=C2N1C=CC=C2O)C | C9H8N2O2
reactant | triethylamine | 1.90 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 425 ml, 75 g | CO | CH4O
product | (+)-(1S,2S)-3-formyl-2-methyl-8-(2-hydroxy-2,3-dihydro-1-indenyloxy)-imidazo[1,2-a]pyridine | 1.51 g | C(=O)C1=C(N=C2N1C=CC=C2O[C@@H]2[C@H](CC1=CC=CC=C21)O)C | C18H16N2O3
